US04352808
Dissolve 5-chloro-2-(1'-imidazolylmethyl)coumaran-3-one (10 gms., 21 mmols.) in methanol (100 ml.), cool the solution to 0°-5° C. and add sodium borohydride (1.0 gms., 26.4 mmols.). Stir the reaction mixture overnight at room temperature and evaporate the methanol in vacuo. Add water (200 ml.) to the resultant residue and stir for 30 minutes. Filter and wash the resultant residue with water to give 5-chloro-2,3-dihydro-3-hydroxy-2-(1'-imidazolylmethyl)benzo(b)furan.

reactant | 5-chloro-2-(1'-imidazolylmethyl)coumaran-3-one | 21 mmols, 10 gms | ClC=1C=C2C(C(OC2=CC1)CC=1NC=CN1)=O | C12H9ClN2O2
reactant | sodium borohydride | 26.4 mmols, 1.0 gms | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 5-chloro-2,3-dihydro-3-hydroxy-2-(1'-imidazolylmethyl)benzo(b)furan | ClC1=CC2=C(OC(C2O)CC=2NC=CN2)C=C1 | C12H11ClN2O2
